Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diarrhea, syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with a PMH of a ureteral
stone who presents with diarrhea and abdominal pain.

The pt reports that she was in her normal state of health until
three weeks ago, when she developed abdominal pain. She went to 
a
hospital in ___, where she lives. Per the pt, they performed
XRs which showed a ureteral stone.  The patient underwent some
form of stone lithotripsy-unclear if shockwave versus
ureteral-followed by stent placement.  She underwent stent
removal 10 days later.  She also received prophylactic
antibiotics.  Per the patient, there is no sign of active
infection.  She completed antibiotics 1 week ago.  She is 
unclear
of the name of the antibiotic, reports that it was "similar to
Maxipen".

The patient then returned to her normal state of health.  This
last ___, she traveled to ___ because her daughter is ill
and receives intermittent medical treatment in ___.  She 
took
her daughter to ___.  Her daughter is currently
hospitalized.

Last ___, when she arrived in ___, she developed diffuse
abdominal pain and diarrhea.  She reports that the abdominal 
pain
is mid abdomen and does not radiate.  She denies any back pain. 
She reports that she is having ___ watery bowel movements per
day.  She denies any hematochezia or melena.  She denies any
fevers.  She denies nausea and vomiting.  She denies any
hematuria, dysuria, urinary frequency, or urinary urgency.  This
has never happened before.

Over the past 24 hours, the patient has noticed some mild
tingling sensation in her bilateral hands as well as "shaking". 
She therefore came to the ER for further evaluation.  She also 
had an episode of fainting while at ___.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
The patient denies any past medical history other than the
ureteral stone described above.  Surgical history:
C-section
Some nonspecific OB/GYN surgery the patient cannot clearly
describe
Ureteral stone lasering per above

 
Social History:
___
Family History:
The patient denies any family history of ureteral
stones or unusual infections.

 
Physical Exam:
Gen: Well appearing, well groomed, no apparent distress
HENT: NCAT. Mucus membranes moist. No oral lesions or ulcer.
Eyes: Conjuctiva clear. No periorbital edema.
CV: RRR. No m/r/g.
Resp: Lungs CTAB. Good air movement. Breathing non-labored.
Abd: Soft, non-distended.  Mild diffuse tenderness.  No 
guarding,
no rebound.
GU: No suprapubic or any significant CVA tenderness
Ext: No ___ edema or erythema
Skin: No rashes or skin lesions
Neuro: Face symmetric. Ox4. Normally conversant. Moves all four
extremities.
Psych: Normal tone and affect
.
Discharge exam:
well appearing, afebrile.
friendly, answering questions, showing pictures on phone, more 
animated
abdomen soft, some epigastric tenderness
no lower extremity edema

 
Pertinent Results:
___ 06:32PM BLOOD WBC-5.6 RBC-4.58 Hgb-13.3 Hct-40.1 MCV-88 
MCH-29.0 MCHC-33.2 RDW-12.7 RDWSD-40.1 Plt ___
___ 06:32PM BLOOD Neuts-43.8 ___ Monos-11.0 Eos-3.4 
Baso-0.5 Im ___ AbsNeut-2.47 AbsLymp-2.32 AbsMono-0.62 
AbsEos-0.19 AbsBaso-0.03
___ 06:32PM BLOOD Glucose-106* UreaN-4* Creat-0.6 Na-143 
K-3.2* Cl-102 HCO3-28 AnGap-13
___ 06:32PM BLOOD ALT-22 AST-15 AlkPhos-69 TotBili-0.3
___ 06:32PM BLOOD Lipase-17
___ 06:32PM BLOOD cTropnT-<0.01
___ 06:32PM BLOOD Albumin-4.1 Calcium-9.4 Phos-2.7 Mg-1.8

Micro:
c diff negative
shigella, campylobacter, salmonella negative.
O and p X 2 negative.

ImagingL
EXAMINATION:  CT ABD AND PELVIS WITH CONTRAST
 
INDICATION:  eval abdominal pain/diarrhea/poor PO intake x1 
week; s/p laser
lithotripsy 3wks ago in ___
 
TECHNIQUE:  Multidetector CT of the abdomen and pelvis was 
performed with IV
contrast.  Multiplanar reformations were provided.
 
DOSE:  Total DLP (Body) = 626 mGy-cm.
 
COMPARISON:  None.
 
FINDINGS: 
 
Lung Bases:  The imaged lung bases are clear.  The imaged 
portion of the heart
is unremarkable.
 
Abdomen: The liver enhances normally without concerning lesion.  
Gallbladder
is surgically absent with resultant mild prominence of the 
intrahepatic
biliary tree.  The main portal vein is patent.  The common bile 
duct is normal
in size.  The pancreas appears normal.  The spleen is normal in 
size.  The
adrenal glands are normal bilaterally.  Subtle hypoenhancement 
of the right
renal cortex at the lower pole and midpole region raises concern 
for
pyelonephritis.  There is a simple appearing cyst arising from 
the upper pole
of the right kidney.  There is subtle right urothelial 
hyperenhancement and
mild thickening also concerning for ascending infection.  Left 
kidney appears
normal.  The abdominal aorta is normal in course and caliber.  
No
retroperitoneal adenopathy.  No free air or free fluid.  The 
stomach and
duodenum appear normal.
 
Pelvis: Loops of small bowel demonstrate no signs of ileus or 
obstruction. 
The appendix is not visualized though there is no secondary sign 
of
appendicitis.  The colon is thin walled and contains a mild 
fecal load.  The
uterus contains a right-sided dominant fibroid.  There is no 
adnexal mass.  No
pelvic free fluid.  The urinary bladder is well distended and 
appears normal. 
No pelvic sidewall or inguinal adenopathy.
 
Bones: No worrisome lytic or blastic osseous lesion is seen.
 
IMPRESSION: 
 
1.  Findings concerning for right pyelonephritis.
2.  Fibroid uterus.

Discharge labs:

___ 07:50AM BLOOD WBC-4.3 RBC-4.54 Hgb-13.2 Hct-39.9 MCV-88 
MCH-29.1 MCHC-33.1 RDW-12.9 RDWSD-40.6 Plt ___
___ 05:15AM BLOOD Glucose-96 UreaN-2* Creat-0.6 Na-140 
K-4.2 Cl-108 HCO3-21* AnGap-11
___ 07:50AM BLOOD ALT-25 AST-19 LD(LDH)-160 AlkPhos-72 
TotBili-0.3
 
Brief Hospital Course:
The patient is a ___ female with no significant past 
medical history except for recent lithotripsy for a right 
ureteral stone who presents with diffuse abdominal pain and 
diarrhea.
.
#Abdominal pain
#Diarrhea
___ reported diffuse abdominal pain and a week of diarrhea.  
This followed her arrival in the ___.  She had a CT 
scan was negative for an acute abdominal process, although did 
show some signs of right kidney pathology but this was after 
recent lithotripsy.  She was ruled out for C. difficile, and 
other common stool pathogens including Salmonella, Shigella and 
Campylobacter.  Her pain slowly improved as did her diarrhea.  
She continued to have epigastric pain that was likely related to 
nonulcer dyspepsia in the setting of increased stress of her 
stay here in the ___.  She overall improved with the 
initiation of ranitidine, and supportive care.  She was 
discharged on ranitidine and Imodium

#Recent lithotripsy
#Changes of right kidney as described in CT
The patient had a recent lithotripsy on the right.  She 
underwent
prophylactic antibiotics.  She denies any urinary symptoms.  UA
is negative.  CT scan shows changes consistent with recent right
lithotripsy.  She has minimal to no bilateral CVA tenderness.  
There was no suspicion for pyelonephritis given her clinical 
presentation and she was not covered with antibiotics.

#Hypokalemia: Secondary to diarrhea. This was repleted.

#Tremors
#Bilateral UE "tingling"
She was hospitalized with paresthesias that were likely ___s dehydration.  H she improved with IV 
fluids, as well as potassium repletion.  At the time of 
discharge she had no further paresthesias although she continued 
to feel weak.

#Stress and anxiety
As she remained hospitalized, it became evident that she had 
significant stress and anxiety related to her stay here in 
___.  She was advised to follow-up with her primary 
care doctor back in ___ for further management.

 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea
Likely viral gastroenteritis
Dyspepsia
Dehydration
Syncope
 
Discharge Condition:
Tolerating bland diet, ambulating independently.
 
Discharge Instructions:
You were hospitalized with diarrhea and fainting.  This was 
related to dehydration from the diarrhea.  With fluids and 
restarting a diet, you improved.  You also had abdominal pain 
that was likely related to stress and this improved slightly 
with ranitidine.

When you get home, you should follow-up with a social worker or 
a therapist to talk about the stress.
 
Followup Instructions:
___